US06252080B1
5-Chloro-N-[(4-chlorophenyl)methyl]-8-hydroxy-7-quinolinecarboxamide (Formula C-3 wherein R1 is —Cl, R2 is —H, and X is —Cl) Refer to Chart C
To a solution of 5-chloro-8-hydroxyquinoline-7-carboxylic acid (0.335 g) of Preparation 3 and 4-chlorobonzylamine (0.219 g) in 20 mL DMF is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.305 g) and 1-hydroxybenzotriazole monohydrate (0.217 g). The mixture is stirred overnight. The solution is then poured into 30 mL ice-water. The resulting solid is collected and dried to yield 0.167 g of the title product as an off-white solid.

reactant | 5-chloro-8-hydroxyquinoline-7-carboxylic acid | 0.335 g | ClC1=C2C=CC=NC2=C(C(=C1)C(=O)O)O | C10H6ClNO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.305 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.217 g | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-N-[(4-chlorophenyl)methyl]-8-hydroxy-7-quinolinecarboxamide | 0.167 g | ClC1=C2C=CC=NC2=C(C(=C1)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H12Cl2N2O2
